US03988363
4-tert.-Butyl-2,6-dimethyl-3-hydroxyphenylacetonitrile
To 41 grams of potassium cyanide dispersed in 300 ml of N,N-dimethylformamide, was slowly added a solution of 97.2 grams of the compound of Example 1, the reaction temperature rising from 25° to 35° C. The reaction mixture was then heated at 70° to 75° for 7 1/2 hours. Since a sample analyzed after 7 hours reaction time indicated that some unreacted staring 6-tert.-butyl-3-chloromethyl-2,4-dimethyl-phenol remained unreacted, an additional 13.7 grams of potassium cyanide was added and the reaction mixture heated for an additional 2 hours at 60° to 65° C. The reaction mixture was poured on crushed ice, and water added to made the total volume 1.8 liters. The mixture was stirred until the ice melted, the aqueous solid dispersion was filtered by suction, and the filtercake washed well with water. The filtercake was taken up in a toluene-benzene mixture, the resulting solution being successively washed with water, 6N aqueous hydrochloric acid and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration and treating the clear filtrate with activated charcoal, the solvent was evaporated at reduced pressures. The resulting residue was allowed to crystallize from toluene yielding white crystals melting at 134° to 139°.

reactant | potassium cyanide | 41 grams | [C-]#N.[K+]
reactant | 6-tert.-butyl-3-chloromethyl-2,4-dimethyl-phenol | C(C)(C)(C)C1=CC(=C(C(=C1O)C)CCl)C | C13H19ClO
reactant | potassium cyanide | 13.7 grams | [C-]#N.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-tert.-Butyl-2,6-dimethyl-3-hydroxyphenylacetonitrile | C(C)(C)(C)C1=C(C(=C(C(=C1)C)CC#N)C)O | C14H19NO
